US09403798B2
(5-Chloro-benzofuran-2-yl)methanol
To a tetrahydrofuran solution (12 mL) of 5-chlorobenzofuran-2-carboxylic acid (620 mg, 3.15 mmol), borane-tetrahydrofuran complex (7.88 mL, 7.88 mmol, tetrahydrofuran solution) was added at 0° C. and the resultant solution was stirred at room temperature for 3 hours, at 60° C. for 1 day, and at room temperature for 1 day. After completion of the reaction, concentration under reduced pressure was carried out three times with adding methanol to the reaction solution and the concentrated solution was purified by silica gel column chromatography (hexane/ethyl acetate=3/1→1/1 (v/v)) to obtain the title compound (268 mg, yield 47%).

reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | 5-chlorobenzofuran-2-carboxylic acid | 3.15 mmol, 620 mg | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | borane tetrahydrofuran | 7.88 mmol, 7.88 mL | B.O1CCCC1
solvent | methanol | CO | CH4O
product | (5-Chloro-benzofuran-2-yl)methanol | 268 mg, yield 47% | ClC=1C=CC2=C(C=C(O2)CO)C1 | C9H7ClO2
